US04379154
A mixture of anhydrous hexamethylphosphorotriamide and anhydrous tetrahydrofuran (47/53 by volume; 50 cc) is added dropwise and in the course of 10 minutes to a 1.6 M solution of n-butyllithium in hexane (44 cc), kept under a nitrogen atmosphere and cooled to -70° C. A solution of 2-(pyrid-3-yl)-1,3-oxathiane (8.5 g) in a mixture of anhydrous hexamethylphosphorotriamide and anhydrous tetrahydrofuran (47/53 by volume; 50 cc) is then added in the course of 25 minutes at the same temperature. After stirring for 15 minutes, a solution of methyl isothiocyanate (5.4 g) in a mixture of anhydrous hexamethylphosphorotriamide and anhydrous tetrahydrofuran (47/53 by volume; 50 cc) is added in the course of 15 minutes. The reaction mixture is stirred for 45 minutes at -70° C. and then for 1 hour whilst allowing the temperature to rise gradually to about 20° C. It is then run into a stirred mixture of distilled water (300 cc) and ethyl acetate (240 cc). After decantation, the aqueous phase is extracted twice with ethyl acetate (400 cc in total). The organic phases are combined, washed three times with distilled water (600 cc in total), dried over anhydrous sodium sulphate and filtered, and the filtrate is concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 50° C. The product obtained, to which a mixture of diisopropyl ether and ethyl acetate (90/10 by volume; 70 cc) is added, is stirred for 10 minutes at 20° C. The resulting crystals are filtered off, washed twice with diisopropyl ether (20 cc in total) and dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 20° C. The product obtained (4.4 g) is chromatographed on neutral silica gel (40 g) contained in a column of diameter 2.6 cm. Elution is carried out with a cyclohexane/ethyl acetate mixture (40/60 by volume; 2000 cc) and then with ethyl acetate (800 cc), 200 cc fractions being collected. Fractions 4 to 14 are combined and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 50° C. The product obtained (3.9 g) is dissolved in boiling acetonitrile (45 cc). The solution, to which decolourising charcoal (0.2 g) is added, is filtered hot and the filtrate, after cooling, is then kept for 1 hour at 0° C. The resulting crystals are filtered off, washed twice with acetonitrile (10 cc in total) and dried under reduced pressure (1 mm Hg; 0.13 kPa) at 60° C. N-Methyl-2-(pyrid-3-yl)-1,3-oxathiane-2-carbothioamide (2.9 g), melting at 194° C., is thus obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-(pyrid-3-yl)-1,3-oxathiane | 8.5 g | N1=CC(=CC=C1)C1OCCCS1 | C9H11NOS
reactant | methyl isothiocyanate | 5.4 g | CN=C=S | C2H3NS
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
reactant | charcoal | 0.2 g | C | CH4
solvent | hexane | 44 cc | CCCCCC | C6H14
solvent | acetonitrile | 45 cc | C(C)#N | C2H3N
solvent | ethyl acetate | 70 cc | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 240 cc | C(C)(=O)OCC | C4H8O2
solvent | water | 300 cc | O | H2O
solvent | tetrahydrofuran | 50 cc | O1CCCC1 | C4H8O
solvent | hexamethylphosphorotriamide | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | tetrahydrofuran | 50 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 cc | O1CCCC1 | C4H8O
product | N-Methyl-2-(pyrid-3-yl)-1,3-oxathiane-2-carbothioamide | 2.9 g | CNC(=S)C1(OCCCS1)C=1C=NC=CC1 | C11H14N2OS2
